US04847401
The start of the reaction in the reactor is indicated by a rise in temperature within the reaction chamber 5 from originally -74° C. to about -45° C. During the rest of the reaction period the temperature in the reaction chamber varies from about -45° C. to about -55° C. The reaction mixture from outlet conduit 18 containing the 1,2,2-trifluorovinyl allyl ether is conducted to a stirred solution of 434 g (600 mL, 4.3 mol) of triethylamine in 358 g (450 mL, 7.8 mol) of absolute ethanol cooled in an ice bath. Upon warming to the ice bath temperature, the 1,2,2-trifluorovinyl allyl ether spontaneously rearranges to 2,2-difluoro-4-pentenoyl fluoride, which in the presence of ethanol reacts to yield the desired ethyl 2,2-difluoro-4-pentenoate. The reaction mixture is divided into two equal batches which are treated separately. The following describes the workup of one batch.

reactant | 1,2,2-trifluorovinyl allyl ether | C(C=C)OC(=C(F)F)F | C5H5F3O
reactant | triethylamine | 4.3 mol, 600 mL, 434 g | C(C)N(CC)CC | C6H15N
reactant | 2,2-difluoro-4-pentenoyl fluoride | FC(C(=O)F)(CC=C)F | C5H5F3O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 7.8 mol, 450 mL, 358 g | C(C)O | C2H6O
product | ethyl 2,2-difluoro-4-pentenoate | FC(C(=O)OCC)(CC=C)F | C7H10F2O2
